US09062199B2
A four-necked flask equipped with a stirrer, a thermometer, a dropping funnel, a distillation tube, and a nitrogen blowing tube was charged with 263.5 g (2.53 mol) of neopentyl glycol, 1,500 g (4.05 mol) of bis(2-ethylhexyl) adipate, and 5.6 g of a 28% by weight sodium methoxide-containing methanol solution (sodium methoxide: 0.029 mol) as a catalyst, and the contents were allowed to react at a pressure of 3.7 kPa and 120° C. for 1.5 hours, and concurrently 2-ethylhexanol formed by the reaction was distilled off. Next, the temperature was cooled to 75° C., the pressure was thereafter recovered to a normal pressure, and additional 3.0 g of a 28% by weight sodium methoxide-containing methanol solution (sodium methoxide: 0.016 mol) was added as a catalyst. The temperature was raised from 92° to 160° C. at a pressure of 0.4 kPa over 1 hour to distill off 2-ethylhexanol. Thereafter, the temperature was cooled to 80° C., 19 g of KYOWAAD 600S manufactured by Kyowa Chemical Industry Co., Ltd. was added thereto, and the mixture was stirred at a pressure of 4.0 kPa and 80° C. for 1 hour, and then filtered under a reduced pressure. The temperature of the filtrate was raised from 166° to 214° C. over 2 hours at a pressure of 0.3 kPa to distill off 504 g of the residual bis(2-ethylhexyl) adipate, to provide a yellow liquid at an ambient temperature. The amount of the catalyst used was 1.11 mol per 100 mol of the dicarboxylic acid ester.

reactant | neopentyl glycol | 2.53 mol, 263.5 g | OCC(C)(CO)C | C5H12O2
reactant | bis(2-ethylhexyl) adipate | 4.05 mol, 1,500 g | C(CCCCC(=O)OCC(CCCC)CC)(=O)OCC(CCCC)CC | C22H42O4
reactant | sodium methoxide | C[O-].[Na+]
catalyst | methanol | 0.029 mol | CO | CH4O
product | 2-ethylhexanol | C(C)C(CO)CCCC | C8H18O
